US08278336B2
Step 3: Benzyl 4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-piperidine-1-carboxylate
1108 g (2.85 mol) of benzyl 4-[1-(2-chloro-pyridin-3-yl)-ureido]-piperidine-1-carboxylate were refluxed with 720 g (8.57 mol) sodium hydrogen carbonate in 14.5 L of tert-amyl alcohol. 3 L of solvent were distilled off. The reaction mixture was cooled to 35° C. and mixed with 11 mL water. Then 13 g (0.058 mol) palladium acetate and 49 g (0.115 mol) 1,4-bis-(diphenylphosphino)-butane (DPPB) were added and the mixture was heated to reflux temperature. It was stirred at 100° C. until the reaction was complete, then cooled to RT and 7.5 L of water were added. The organic phase was separated off, washed with 5 L water and then evaporated down. Two lots of 3 L of isopropyl acetate were added to the oily residue and it was distilled off. Then the residue was dissolved hot in 7 L of isopropyl acetate and the mixture was slowly cooled to ambient temperature. The solid that crystallised out was suction filtered, washed with 2 L isopropyl acetate and tert.-butyl-methylether and dried at 50° C.

reactant | benzyl 4-[1-(2-chloro-pyridin-3-yl)-ureido]-piperidine-1-carboxylate | 2.85 mol, 1108 g | ClC1=NC=CC=C1N(C(=O)N)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H21ClN4O3
reactant | sodium hydrogen carbonate | 8.57 mol, 720 g | C(O)([O-])=O.[Na+]
reactant | 1,4-bis-(diphenylphosphino)-butane | 0.115 mol, 49 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | water | 7.5 L | O | H2O
solvent | tert-amyl alcohol | 14.5 L | C(C)(C)(CC)O | C5H12O
catalyst | palladium acetate | 0.058 mol, 13 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzyl 4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-piperidine-1-carboxylate | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H20N4O3
